US06113527
1-Bicyclo[3.3.1]non-9-yl-4-phenylamino-piperidine-4-carbonitrile
1-Bicyclo[3.3.1]non-9-yl-piperidin-4-one (2.99 g, 13.5 mmol) was dissolved in acetic acid (15 ml). Aniline (1.36 ml, 14.9 mmol) and trimethylsilylcyanide (1.44 ml, 13.5 mmol) were added at 0° C. and the mixture was stirred for 17 h at room temperature. The reaction mixture was poured into cold ammonia solution (water/28% ammonia, 30 ml/50 ml) and extracted with dichloromethane (2×100 ml). The combined organic phases were washed with brine (100 ml), dried (MgSO4) and concentrated. Column chromatography on silica gel (toluene/ethyl acetate 4:1) yielded the desired product (3.18 g, 73%) as a pale yellow solid, m.p. 168° C., MS: m/e=324.4 (M+H+).

reactant | 1-Bicyclo[3.3.1]non-9-yl-piperidin-4-one | 13.5 mmol, 2.99 g | C12CCCC(CCC1)C2N2CCC(CC2)=O | C14H23NO
reactant | Aniline | 14.9 mmol, 1.36 ml | NC1=CC=CC=C1 | C6H7N
reactant | trimethylsilylcyanide | 13.5 mmol, 1.44 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | ammonia | 30 ml | N | H3N
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-Bicyclo[3.3.1]non-9-yl-4-phenylamino-piperidine-4-carbonitrile | 3.18 g, 73% | C12CCCC(CCC1)C2N2CCC(CC2)(C#N)NC2=CC=CC=C2 | C21H29N3
